US05998442
[2-(3-Fluorophenyl)-6-methoxybenzo[b]thien-3-yl] [4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.5 g, 3.4 mmol) in THF (13 mL) was treated with a 1.9 M THF solution of 3-Fluorophenylmagnesium bromide (9.0 mL, 17 mmol) to provide, after chromatography (silica gel, 1:1 hexane:ethyl acetate, 0-10% MeOH) 1.13 g (68%) of the title compound as an off-white solid: 1H NMR d 1.44 (m, 2H), 1.58 (m, 4H), 2.47 (m, 4H), 2.73 (t, J=6.0 Hz, 2H), 3.89 (s, 3H), 4.08 (t, J=6.0 Hz, 2H), 6.78 (d, J=8.8 Hz, 2H), 6.87-6.93 (m, 1H), 6.97 (dd, J=2.3, 8.9 Hz, 1H), 7.11-7.20 (m, 3H), 7.33 (d, J=2.3 Hz, 1H), 7.53 (d, J=8.9 Hz, 1H), 7.75 (d, J=8.8 Hz, 2H); 13C NMR d 24.2, 25.9, 55.1, 55.7, 57.7, 66.3, 104.3, 104.5, 114.3, 115.15, 115.22, 115.4, 124.4, 124.6, 124.8, 130.3, 132.2, 132.4, 133.7, 140.4, 158.1, 160.9, 163.3, 164.2, 192.8; IR (CHCl3) 1648, 1599 cm-1 ; MS (FD) m/e 489 (M+); Anal. calc'd. for C29H28FNO3S: C, 71.14; H, 5.76; N, 2.86. Found: C, 70.89; H, 5.83; N, 2.85.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 3.4 mmol, 1.5 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 3-Fluorophenylmagnesium bromide | 17 mmol, 9.0 mL | FC=1C=C(C=CC1)[Mg]Br
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 1.9 M | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [2-(3-Fluorophenyl)-6-methoxybenzo[b]thien-3-yl] [4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 1.13 g, 68% | FC=1C=C(C=CC1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C29H28FNO3S
